US05187037
Example 3: Preparation of N,N'-Bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium Bis(M-nitrobenzenesulfonate)
A solution of 17.11 grams (0.076 mol) of sodium m-nitrobenzenesulfonate in 75 milliters of water was added to a solution of 21.34 grams (0.038 mol) N,N'-bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium dichloride, prepared as described in Example 2, in 100 milliters of water. An oily precipitate formed which crystallized with stirring. the solid was collected, washed with water and recrystallized from 2-butanone. The yield of product was 21.7 rams (63.81% of theory); mp=180°-182° C.

reactant | sodium m-nitrobenzenesulfonate | 0.076 mol, 17.11 grams | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | N,N'-bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium dichloride | 0.038 mol, 21.34 grams | [Cl-].[Cl-].C(C1=CC=CC=C1)(=O)OCC[N+](CC1=CC=C(C=C1)C[N+](C)(C)CCOC(C1=CC=CC=C1)=O)(C)C
solvent | water | O | H2O
product | N,N'-Bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium Bis(M-nitrobenzenesulfonate) | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].C(C1=CC=CC=C1)(=O)OCC[N+](CC1=CC=C(C=C1)C[N+](C)(C)CCOC(C1=CC=CC=C1)=O)(C)C | InChI=1S/C30H38N2O4.2C6H5NO5S/c1-31(2,19-21-35-29(33)27-11-7-5-8-12-27)23-25-15-17-26(18-16-25)24-32(3,4)20-22-36-30(34)28-13-9-6-10-14-28;2*8-7(9)5-2-1-3-6(4-5)13(10,11)12/h5-18H,19-24H2,1-4H3;2*1-4H,(H,10,11,12)/q+2;;/p-2
